US07368582B2
The n-butyl-2-(2,2-dimethyl-1a,7b-dihydro-2H-oxireno[c]chromen-6-yl) acetamide obtained above was immediately poured into a mixture of so much ethanol and 25%-strength aqueous ammonia solution (6:5 v/v) that a 0.2 M solution of the compound was obtained and was processed further in a manner corresponding to the procedure of Example 5E). 7.4 g 2-(4-amino-3-hydroxy-2,2-dimethyl-3,4-dihydro-2H-chromen-6-yl)-N-(n-butyl)acetamide was obtained, which was used without further purification for the subsequent reaction. The other regioisomer, 2-[3-amino-4-hydroxy-2,2-dimethylchromen-6-yl]-N-(n-butyl)acetamide, was not observed.

reactant | n-butyl-2-(2,2-dimethyl-1a,7b-dihydro-2H-oxireno[c]chromen-6-yl) acetamide | C(CCC)C(C(=O)N)C1=CC=2C3C(C(OC2C=C1)(C)C)O3 | C17H23NO3
reactant | ammonia | N | H3N
solvent | ethanol | C(C)O | C2H6O
product | 2-(4-amino-3-hydroxy-2,2-dimethyl-3,4-dihydro-2H-chromen-6-yl)-N-(n-butyl)acetamide | 7.4 g | NC1C(C(OC2=CC=C(C=C12)CC(=O)NCCCC)(C)C)O | C17H26N2O3
